US09029556B1
2. Preparation of 3-(3-chloro-1H-pyrazol-1-yl)pyridine (5b)
To a 3-neck round bottomed flask (100 mL) was charged 3-(3-amino-1H-pyrazol-1-yl)pyridine (0.500 g, 3.12 mmol) and hydrochloric acid (37 wt %, 3 mL). The mixture was cooled to 0° C. and a solution of sodium nitrite (0.431 g, 6.24 mmol) in water (3 mL) was added in portions at <5° C. The resulting yellow suspension was stirred at 0° C. for 2 hours. To a separate 3-neck round bottomed flask (100 mL) was charged copper(I) chloride (0.371 g, 3.75 mmol) and toluene (3 mL). It was cooled to 0° C. and the yellow suspension was added in portions at <5° C. The resulting mixture was allowed to warm to 20° C. and stirred for 18 hours. It was basified with 50% sodium hydroxide to pH 10 and extracted with ethyl acetate (2×20 mL). The organic layers were concentrated to dryness and the residue was purified by flash column chromatography using 0-10% ethyl acetate/hexanes as eluent. The fractions containing the desired product were concentrated to give the title compound as a white solid (0.340 g, 61%): mp 104-106° C.; 1H NMR (400 MHz, CDCl3) δ 8.93 (d, J=27 Hz, 1H), 8.57 (dd, J=4.8, 1.4 Hz, 1H), 8.02 (ddd, J=8.3, 2.7, 1.5 Hz, 1H), 7.91 (d, J=2.6 Hz, 1H), 7.47-7.34 (M, 1H), 6.45 (d, J=2.6 Hz, 1H); 13C NMR (101 MHz, CDCl3) δ 148.01, 142.72, 140.12, 135.99, 128.64, 126.41, 124.01, 108.08; EIMS m/z 179 ([M]+).

reactant | 3-(3-amino-1H-pyrazol-1-yl)pyridine | 3.12 mmol, 0.500 g | NC1=NN(C=C1)C=1C=NC=CC1 | C8H8N4
reactant | hydrochloric acid | 3 mL | Cl | ClH
reactant | sodium nitrite | 6.24 mmol, 0.431 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 3 mL | O | H2O
catalyst | copper(I) chloride | 3.75 mmol, 0.371 g | [Cu]Cl
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(3-chloro-1H-pyrazol-1-yl)pyridine | 0.340 g, 61% | ClC1=NN(C=C1)C=1C=NC=CC1 | C8H6ClN3
